US05043447
5 g of 1-diphenylmethyl-4-[2-(-4-methylphenyl)-5-methyl-1H-imidazol-4-yl)methyl]piperazine monofumarate were dissolved in 100 ml of hot ethanol. 3 ml of commercial concentrated HCl solution (10N) were added with stirring. The solution was refluxed for 30 minutes then the solution was allowed to cool to room temperature. The solvent was evaporated off and the residue was crystallized twice from ethanol at 98° C. to yield 1-diphenylmethyl-4-[2-(-4-methylphenyl)-5-methyl-1H-imidazol-4-yl)methyl]piperazine trihydrochloride, m.p. 202°-204° with decomposition.

reactant | piperazine monofumarate | C(\C=C\C(=O)O)(=O)O.N1CCNCC1
reactant | HCl | 10N, 3 ml | Cl | ClH
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | piperazine trihydrochloride | Cl.Cl.Cl.N1CCNCC1 | InChI=1S/C4H10N2.3ClH/c1-2-6-4-3-5-1;;;/h5-6H,1-4H2;3*1H
